US05952386
A mixture of 9.1 g of 2,6-dichloro-4-(3,3-dichloro-2-propenyloxy)phenol, 8.9 g of N-(4-bromoethyl)phthalimide, 4.4 g of potassium carbonate and 100 ml of N,N-dimethylformamide was stirred at room temperature for 24 hours. The reaction mixture was poured into ice water and made weak acidic by the addition of 10% hydrochloric acid, after which 200 ml of ethyl acetate was added for extraction. The ethyl acetate layer was successively washed with 10% hydrochloric acid and saturated saline solution, dried over anhydrous magnesium sulfate, and then concentrated to give crude crystals. The crude crystals were washed with n-hexane and then dried under reduced pressure, which afforded 14.5 g of 3,5-dichloro-4-(4-phthalimidobutyloxy)-1-(3,3-dichloro-2-propenyloxy)benzene (94% yield).

reactant | 2,6-dichloro-4-(3,3-dichloro-2-propenyloxy)phenol | 9.1 g | ClC1=C(C(=CC(=C1)OCC=C(Cl)Cl)Cl)O | C9H6Cl4O2
reactant | potassium carbonate | 4.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
reactant | hydrochloric acid | Cl | ClH
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | 3,5-dichloro-4-(4-phthalimidobutyloxy)-1-(3,3-dichloro-2-propenyloxy)benzene | 14.5 g, 94% yield | ClC=1C=C(C=C(C1OCCCCN1C(C=2C(C1=O)=CC=CC2)=O)Cl)OCC=C(Cl)Cl | C21H17Cl4NO4
